US08557872B2
To a suspension of 3-(2-isopropoxy-4-trifluoromethyl-phenyl)-acrylic acid methyl ester (15 mg, 0.052 mmol) in THF (1 ml) was added a solution of 0.5 N-LiOH (0.2 ml), and the resulting mixture was stirred for 3 hours at room temperature. The reaction mixture was acidified with 1N HCl to pH 1˜2. The mixture solution was extracted three times with methylene chloride, and the combined organic layer was dried over anhydrous Na2SO4 and concentrated in vacuo to give 3-(2-isopropoxy-4-trifluoromethyl-phenyl)-acrylic acid (14 mg, 98%). To a suspension of 3-(2-isopropoxy-4-trifluoromethyl-phenyl)-acrylic acid (14 mg, 0.051 mmol) and N-[4-(1-amino-ethyl)-2,6-difluoro-phenyl]-methanesulfonamide, HCl salt (17.2 mg, 0.060 mmol) in DMF (2 mL) was added N-methylmorpholine (0.007 ml, 0.060 mmol). The mixture was stirred for 5 minutes, to which were added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (26 mg, 0.132 mmol). The mixture was stirred for 12 hours at room temperature, and then diluted with EtOAc (4 mL). The organic layer was washed with 1N HCl, water, and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude residue was purified by chromatography (Hex/EtOAc=1/1) to give the title compound (24 mg, 79%).

reactant | 3-(2-isopropoxy-4-trifluoromethyl-phenyl)-acrylic acid methyl ester | 0.052 mmol, 15 mg | COC(C=CC1=C(C=C(C=C1)C(F)(F)F)OC(C)C)=O | C14H15F3O3
reactant | LiOH | 0.2 ml | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 3-(2-isopropoxy-4-trifluoromethyl-phenyl)-acrylic acid | 14 mg, 98% | C(C)(C)OC1=C(C=CC(=C1)C(F)(F)F)C=CC(=O)O | C13H13F3O3
